US09126931B2
8-[(1R,5R)-5-(Tert-butyldimethylsilanyloxymethyl)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy]-2,3-dichloro-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one
Under nitrogen atmosphere, to the THF (0.3 mL) solution of 2,3-dichloro-8-hydroxy-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one (Compound Y4, 12.9 mg, 0.0373 mmol), (4S,5R)-5-(tert-butyldimethylsilanyloxymethyl)-2,2-dimethyl-[1,3]dioxolan-4-ol (15.5 mg, 0.0559 mmol) and triphenylphosphine (14.7 mg, 0.0559 mmol), toluene solution (25.4 μL, 0.0559 mmol) of DEAD was added dropwise at room temperature. The reaction mixture was stirred at ambient temperature of 40° C. for 4 hr. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure, and the resulting crude product was purified by preparative TLC (Merck 60 F254, 0.5 mm) {solution for elution:hexane/ethyl acetate (3:1)} to obtain the title compound (white solid, 15.1 mg, 67%).

reactant | 2,3-dichloro-8-hydroxy-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 0.0373 mmol, 12.9 mg | ClC=1C=C2C=3C(C4=C(C(C3NC2=CC1Cl)(C)C)C=C(C=C4)O)=O | C18H13Cl2NO2
reactant | (4S,5R)-5-(tert-butyldimethylsilanyloxymethyl)-2,2-dimethyl-[1,3]dioxolan-4-ol | 0.0559 mmol, 15.5 mg | [Si](C)(C)(C(C)(C)C)OC[C@@H]1[C@H](OC(O1)(C)C)O | C12H26O4Si
reactant | triphenylphosphine | 0.0559 mmol, 14.7 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | toluene | 0.0559 mmol, 25.4 μL | C1(=CC=CC=C1)C | C7H8
reactant | DEAD | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 0.3 mL | C1CCOC1 | C4H8O
product | 8-[(1R,5R)-5-(Tert-butyldimethylsilanyloxymethyl)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy]-2,3-dichloro-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 15.1 mg, 67% | C(C)(C)(C)[C@H]([C@H]1C(OC(O1)(C)C)COC=1C=CC2=C(C(C=3NC4=CC(=C(C=C4C3C2=O)Cl)Cl)(C)C)C1)O[SiH](C)C | C31H39Cl2NO5Si
